US05246948
Synthesis of 4-[3-(N-2-pyridylmethyl-N-acetylamino)propylthio]pyridine
To a solution of 1.62 g (6.24 mmol) of 4-[3-(N-2pyridylmethylamino)propylthio]pyridine and 1.10 ml (7.80 mmol) of triethylamine in 10 ml of methylene chloride, 0.51 ml (7.80 mmol) of acetyl chloride was added under ice-cooling with stirring. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate and water and dried, and the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate/methanol=10:1) to obtain 1.61 g of the desired compound (yield: 85.6%, yellow oil).

reactant | 4-[3-(N-2pyridylmethylamino)propylthio]pyridine | 6.24 mmol, 1.62 g | N1=C(C=CC=C1)CNCCCSC1=CC=NC=C1 | C14H17N3S
reactant | triethylamine | 7.80 mmol, 1.10 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 7.80 mmol, 0.51 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(N-2-pyridylmethyl-N-acetylamino)propylthio]pyridine | 1.61 g, yield: 85.6% | N1=C(C=CC=C1)CN(C(C)=O)CCCSC1=CC=NC=C1 | C16H19N3OS
